US09062055B2
Step 1. Methyl 3-cyano-1H-indole-2-carboxylate
To a mixture of methyl 3-[(E)-(hydroxyimino)methyl]-1H-indole-2-carboxylate (from Key Organics, 1.0 g, 4.6 mmol) and pyridine (7.4 mL, 92 mmol) in 1,4-dioxane (20 mL) was added methanesulfonyl chloride (1.4 mL, 18 mmol). The reaction was heated at 60° C. for 2 hours. The reaction was diluted with water and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-5% MeOH/dichloromethane) to give the desired product (0.7 g, 76%). LCMS calculated for C11H9N2O2(M+H)+: m/z=201.1. Found: 201.1.

reactant | methyl 3-[(E)-(hydroxyimino)methyl]-1H-indole-2-carboxylate | 4.6 mmol, 1.0 g | O\N=C\C1=C(NC2=CC=CC=C12)C(=O)OC | C11H10N2O3
reactant | pyridine | 92 mmol, 7.4 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 18 mmol, 1.4 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Methyl 3-cyano-1H-indole-2-carboxylate | 0.7 g, 76% | C(#N)C1=C(NC2=CC=CC=C12)C(=O)OC | C11H8N2O2
